US09062048B2
Pyrrolidin-2-one (720 mg, 8.46 mmol) in DMF (5 mL) was treated with NaH (203 mg, 8.46 mmol) at room temperature. The mixture allowed to stir for 30 min. 1,4-dioxaspiro[4.5]decan-8-yl methanesulfonate (500 mg, 2.12 mmol) from above step A, in DMF (3 mL) was added to the mixture and stirred at 130° C. for 3 h. The mixture was cooled to room temperature, quenched with NH4Cl, and extracted into EtOAc. Washed the EtOAc layer with saturated NaCl, dried over Na2SO4 and evaporated. Purified by silica prep TLC to give 55 mg (11.5%) of 1-(1,4-dioxaspiro[4.5]decan-8-yl)pyrrolidin-2-one.

reactant | Pyrrolidin-2-one | 8.46 mmol, 720 mg | N1C(CCC1)=O | C4H7NO
reactant | NaH | 8.46 mmol, 203 mg | [H-].[Na+]
reactant | 1,4-dioxaspiro[4.5]decan-8-yl methanesulfonate | 2.12 mmol, 500 mg | CS(=O)(=O)OC1CCC2(OCCO2)CC1 | C9H16O5S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(1,4-dioxaspiro[4.5]decan-8-yl)pyrrolidin-2-one | 55 mg, 11.5% | O1CCOC12CCC(CC2)N2C(CCC2)=O | C12H19NO3
